* Two-Switch Forward Converter - Generated by OpenMagnetics
* Vin=48V, f=200kHz, D=23.75 pct
* Lmag=1000uH, 1 secondaries

* DC Input
Vin vin_dc 0 48

* PWM Switches (both controlled together)
Vpwm pwm_ctrl 0 PULSE(0 5 0 10n 10n 1.1875e-06 5e-06)
.model SW1 SW VT=2.500000 VH=0.100000 RON=0.050000 RON=0.1 ROFF=1MEG
.model DIDEAL D(IS=1.000000e-12 RS=5.000000e-02)

* High-side switch S1 and clamp diode D1
S1 vin_dc sw1_out pwm_ctrl 0 SW1
D1 0 sw1_out DIDEAL

* Primary current sense
Vpri_sense sw1_out pri_in 0

* Forward Transformer
Lpri pri_in pri_gnd 1.000000e-03
Lsec0 sec0_in 0 2.500000e-04
* Coupling: All windings coupled pairwise
Kpri_sec0 Lpri Lsec0 0.9999

* Low-side switch S2 and clamp diode D2
S2 pri_gnd 0 pwm_ctrl 0 SW1
D2 pri_gnd vin_dc DIDEAL

* Secondary 0 output stage
Dfwd0 sec0_in sec0_rect DIDEAL
Dfw0 0 sec0_rect DIDEAL
Rsnub_fwd0 sec0_in sec0_rect 10000.000000MEG
Rsnub_fw0 0 sec0_rect 10000.000000MEG
Vsec_sense0 sec0_rect sec0_l_in 0
Rlout0 sec0_l_in lout0_node 0.01
Lout0 lout0_node vout0 1.029375e-04
Cout0 vout0 0 100u IC=5.000000
Rload0 vout0 0 2.500000

* Transient Analysis
.tran 2.500000e-08 5.000000e-05 2.500000e-05 UIC

* Output signals
.save v(pri_in) i(Vpri_sense) v(vin_dc) i(Vin) v(sec0_in) i(Vsec_sense0) v(vout0)

.options RELTOL=0.001 ABSTOL=1e-9 VNTOL=1e-6 ITL1=1000 ITL4=1000
.ic v(vout0)=5.000000

.end
